US08242104B2
2-Isobutyryl-1-methylhydrazinecarboxamide was cyclized with 10-camphorsulfonic acid at reflux in ethylacetate to give 3-isopropyl-1-methyl-1H-1,2,4-triazol-5(4H)-one.

reactant | 2-Isobutyryl-1-methylhydrazinecarboxamide | C(C(C)C)(=O)NN(C(=O)N)C | C6H13N3O2
reactant | 10-camphorsulfonic acid | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 3-isopropyl-1-methyl-1H-1,2,4-triazol-5(4H)-one | C(C)(C)C1=NN(C(N1)=O)C | C6H11N3O
